US06521658B1
N-formylindoline
A solution of indoline (5.0 g) and 98% formic acid (3.0 g) in toluene (17 mL) was heated at reflux for 6 hours with a Dean-Stark trap, cooled, washed with water and concentrated. The resulting dark brown solid was dissolved in methanol, concentrated to a fraction of its original volume, treated with 1:1 diethyl ether/hexane, and concentrated dryness to provide 5.5 g of the desired product.

reactant | indoline | 5.0 g | N1CCC2=CC=CC=C12 | C8H9N
reactant | formic acid | 3.0 g | C(=O)O | CH2O2
solvent | toluene | 17 mL | C1(=CC=CC=C1)C | C7H8
product | N-formylindoline | 5.5 g | C(=O)N1CCC2=CC=CC=C12 | C9H9NO
